US05708007
1-METHYL-4-(7-METHOXY-2-BENZOFURANYL)PIPERIDINE
A mixture of 1-methyl-4-(7-methoxy-2-benzofuranyl)-1,2,3,6-tetrahydropyridine (58.0 g), methanol (1.5 l), water (200 ml), 48% HBr (42.0 g), and platinum dioxide were shaken under hydrogen at room temperature for 6 hours. The mixture was filtered; the filtrate was concentrated in vacuo to the aqueous phase, neutralized with 5% Na2CO3 and extracted with CH2 Cl2. The organic phase was washed with water, dried (Na2 SO4) and concentrated in vacuo to give 59 g of the crude product, which was crystallized from methanol/water, m.p. 74°-75° C.

reactant | 1-methyl-4-(7-methoxy-2-benzofuranyl)-1,2,3,6-tetrahydropyridine | 58.0 g | CN1CCC(=CC1)C=1OC2=C(C1)C=CC=C2OC | C15H17NO2
reactant | methanol | 1.5 l | CO | CH4O
reactant | HBr | 42.0 g | Br | BrH
catalyst | platinum dioxide | [Pt](=O)=O
solvent | water | 200 ml | O | H2O
product | 1-METHYL-4-(7-METHOXY-2-BENZOFURANYL)PIPERIDINE | 59 g | CN1CCC(CC1)C=1OC2=C(C1)C=CC=C2OC | C15H19NO2
